US08017637B2
54.2) 5-({3-[(4-methoxybenzyl)amino]propyl}amino)-2-methyl-1,3-benzothiazole-4,7-dione
160 μl (1.22 mmol; 1.1 equivalent) of 4-methoxybenzylamine, 213 μl (1.22 mmol; 1.1 equivalent) of diisopropylethylamine and a spatula tip's worth of sodium iodide are added to 0.35 g (1.11 mmol) of 5-[(3-bromopropyl)amino]-2-methyl-1,3-benzothiazole-4,7-dione in solution in 15 ml of dimethylformamide. The reaction mixture is maintained under stirring under microwaves for 5 minutes at 180° C. Then the solvent is evaporated off under reduced pressure and the reaction residue is taken up in dichloromethane, followed by washing with 3 times 50 ml of water. The organic phases are combined, dried over magnesium sulphate and the solvent is evaporated off under reduced pressure. The expected product is purified by chromatography on a silica column (eluent: dichloromethane/methanol: 95/5) and obtained in the form of a red oil.

reactant | 4-methoxybenzylamine | 1.22 mmol, 160 μl, 1.1 equivalent | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | diisopropylethylamine | 1.22 mmol, 213 μl, 1.1 equivalent | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | [I-].[Na+]
reactant | 5-[(3-bromopropyl)amino]-2-methyl-1,3-benzothiazole-4,7-dione | 1.11 mmol, 0.35 g | BrCCCNC1=CC(C2=C(N=C(S2)C)C1=O)=O | C11H11BrN2O2S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-({3-[(4-methoxybenzyl)amino]propyl}amino)-2-methyl-1,3-benzothiazole-4,7-dione | COC1=CC=C(CNCCCNC2=CC(C3=C(N=C(S3)C)C2=O)=O)C=C1 | C19H21N3O3S
